US07534797B2
6-Aminomethyl-4H-[1,2,4]triazin-5-one
A slurry of 2-(5-oxo-4,5-dihydro-[1,2,4]triazin-6-ylmethyl)-isoindole-1,3-dione (4 g, 15.6 mmol) in DCM/EtOH (1:1) (150 mL ) was charged with anhydrous hydrazine (1.23 mL, 39.0 mmol) and stirred at rt for 18 h. The reaction mixture was concentrated in vacuo and the off-white solid was triturated with warm CHCl3 and filtered through a fritted funnel. The solid was then triturated with hot boiling methanol (MeOH) and filtered through a fritted funnel resulting in an off-white solid. The material was triturated a second time as before and dried overnight resulting in the title compound as a white solid, which was taken on to the next step without further purification; 1H NMR (DMSO-d6, 400 MHz) δ 3.88 (s, 2H), 8.31 (2, 1H); MS (ES+): m/z 127.07 (100) [MH+], HPLC: tR=0.34 min (MicromassZQ, polar—5 min).

reactant | 2-(5-oxo-4,5-dihydro-[1,2,4]triazin-6-ylmethyl)-isoindole-1,3-dione | 15.6 mmol, 4 g | O=C1NC=NN=C1CN1C(C2=CC=CC=C2C1=O)=O | C12H8N4O3
reactant | hydrazine | 39.0 mmol, 1.23 mL | NN | H4N2
solvent | DCM EtOH | 150 mL | C(Cl)Cl.CCO
product | 6-Aminomethyl-4H-[1,2,4]triazin-5-one | NCC=1C(NC=NN1)=O | C4H6N4O
